US04971984
2 g of 3,5-dicarboethoxy-6-methyl-2-(mercaptome-thyl) -4-(m-nitrophenyl)-1,4-dihydropyridine (4,92 mmol.) and 20 mg of 2-sulphosalicylic acid bihydrate (0,049 mmol.) are dissolved in 20 ml of 2,2-dimethoxypropane. The solution is stirred for 2 hours at room temperature, then the solvent is evaporated under reduced pressure. The residue is dissolved in ethyl acetate, washed with a NaHCO3 solution (5%, 2×10 ml) and water (3×20 ml), dried on Na2SO4 and evaporated at reduced pressure. 1.8 g of 3,5-dicarboethoxy-6-methyl-2-[2-methoxyprop-2-yl-thiomethyl]-4-(m-nitrophenyl)-1,4-dihydropyridine (thick yellow oil) are obtained.

reactant | 3,5-dicarboethoxy-6-methyl-2-(mercaptome-thyl) -4-(m-nitrophenyl)-1,4-dihydropyridine | 4,92 mmol, 2 g | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)CS | C19H22N2O6S
reactant | 2-sulphosalicylic acid | 0,049 mmol, 20 mg | S(=O)(=O)(O)C1(C(C(=O)O)C=CC=C1)O | C7H8O6S
reactant | 2,2-dimethoxypropane | 20 ml | COC(C)(C)OC | C5H12O2
product | 3,5-dicarboethoxy-6-methyl-2-[2-methoxyprop-2-yl-thiomethyl]-4-(m-nitrophenyl)-1,4-dihydropyridine | 1.8 g | C(=O)(OCC)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)CSC(C)(C)OC | C23H30N2O7S
